US08242104B2
8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid N-isopropyl-N′-(2-methoxy-acetyl)-hydrazide (1.00 g, 2.29 mmol) was suspended in phosphorus (V) oxychloride (23 mL) then stirred at 100° C. for 18 h. The reaction mixture was concentrated in vacuo and the residue then azeotroped with toluene (×3) giving a brown solid. To the brown solid was added acetic acid (23 mL) and ammonium chloride (1.76 g, 22.9 mmol), the resultant mixture was stirred at 125° C. for 2.5 h then further ammonium chloride (0.88 g, 11.4 mmol) added, the reaction was stirred at 125° C. for 1 h, then concentrated in vacuo. The resultant residue was treated with water and extracted with DCM (×3). The combined organic extracts were washed with saturated aqueous sodium bicarbonate solution then followed by brine then dried (Na2SO4) and concentrated in vacuo. The resultant solid was triturated with diethyl ether to give 8-Bromo-2-(2-isopropyl-5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene as a light brown solid (0.73 g, 1.74 mmol, 76%). LCMS RT=4.95 min, [M+H]+=418/420. 1H NMR 400 MHz (DMSO-d6) δ: 8.29 (1H, d, J=8.65 Hz), 7.93 (1H, s), 7.31 (1H, dd, J=8.66, 2.05 Hz), 7.25 (1H, d, J=2.05 Hz), 5.79-5.78 (1H, m), 4.49 (4H, s), 4.33 (2H, s), 3.27 (3H, s), 1.43 (6H, d, J=6.60 Hz)

reactant | 8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid N-isopropyl-N′-(2-methoxy-acetyl)-hydrazide | 2.29 mmol, 1.00 g | C(C)(C)N(NC(COC)=O)C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br | C18H21BrN4O4
reactant | acetic acid | 23 mL | C(C)(=O)O | C2H4O2
reactant | ammonium chloride | 22.9 mmol, 1.76 g | [Cl-].[NH4+]
reactant | ammonium chloride | 11.4 mmol, 0.88 g | [Cl-].[NH4+]
solvent | phosphorus (V) oxychloride | 23 mL | O(Cl)Cl.[P+5]
product | 8-Bromo-2-(2-isopropyl-5-methoxymethyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 1.74 mmol, 0.73 g, 76% | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)COC)C(C)C)C=C1 | C18H20BrN5O2
